US05569655
To a mixture of 5 g (0.024 mol) of 1-(3-furyl)-indan-1-ol in 500 ml of toluene was added 50 mg of p-toluenesulfonic acid and the mixture was placed on a Rotovap® and the solvent was distilled in vacuo (40 mm) until a residue was obtained. The residue was chromatographed (silica, 1:1 hexane/methylene chloride) to afford 2.7 g (61.3%) of 1-(3-furyl)-indene as a clear oil.

reactant | 1-(3-furyl)-indan-1-ol | 0.024 mol, 5 g | O1C=C(C=C1)C1(CCC2=CC=CC=C12)O | C13H12O2
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-furyl)-indene | 2.7 g, 61.3% | O1C=C(C=C1)C1C=CC2=CC=CC=C12 | C13H10O
